US07468389B2
To a mixture of linoleic acid methyl ester (2.5 g) and dichloromethane (50 ml), a 0.99M solution of diethylzinc (103 ml) in n-hexane was added under a nitrogen atmosphere. The mixture was cooled in an ice-water bath (−5° C. to 0° C.) and stirred for 1 hour at this temperature. Diodomethane (16.4 ml) was added to the mixture, and the mixture was stirred at ambient temperature overnight. After evaporation in vacuo of the solvent, the reacting mixture was dissolved in a mixture of ethyl acetate (EA) and a saturated aqueous solution of ammonium chloride. The separated organic layer was washed with water and dried over magnesium sulfate. After filtration, the filtrate was concentrated in vacuo. The obtained residue was purified by chromatography on silica gel (eluted with 1% EA in n-hexane). The fractions including 8-(2-((2-pentyl-cyclopropan-1-yl)methyl)cyclopropyl)octanoic acid methyl ester were collected and concentrated in vacuo to give 8-(2-((2-pentylcyclopropan-1-yl)methyl)cyclopropyl)octanoic acid methyl ester (2.81 g) as an oil.

reactant | linoleic acid methyl ester | 2.5 g | COC(CCCCCCC\C=C/C\C=C/CCCCC)=O | C19H34O2
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | diethylzinc | 103 ml | C(C)[Zn]CC
solvent | n-hexane | CCCCCC | C6H14
product | 8-(2-((2-pentylcyclopropan-1-yl)methyl)cyclopropyl)octanoic acid methyl ester | 2.81 g | COC(CCCCCCCC1C(C1)CC1C(C1)CCCCC)=O | C21H38O2
